US06278019B1
A three-neck flask was charged with 24.26 g of m-chlorobenzylidene diacetate and 6.15 g of sodium acetate, and the mixture was refluxed in a 200° C. oil bath for 9 hours. The mixture was cooled, and 100 g of ethyl acetate was added. Furthermore, saturated sodium hydrogencarbonate aqueous solution was added, and the mixture was sufficiently stirred, to produce m-chlorocinnamic acid which was extracted into a water phase. The water phase was separated, and hydrochloric acid was added till the pH became 2, to precipitate m-chlorocinnamic acid which was secured by filtration. It was washed by water sufficiently and dried in vacuum at 60° C. for 8 hours, being weighed. The purity of the obtained product was analyzed by high performance liquid chromatography. The m-chlorocinnamic acid yield and m-chlorobenzylidene diacetate conversion were obtained from the following formulae:

reactant | m-chlorobenzylidene diacetate | 24.26 g | C(C)(=O)OC(C1=CC(=CC=C1)Cl)OC(C)=O | C11H11ClO4
reactant | sodium acetate | 6.15 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 100 g | C(C)(=O)OCC | C4H8O2
product | m-chlorocinnamic acid | ClC=1C=C(C=CC(=O)O)C=CC1 | C9H7ClO2
